US09371285B2
Into a 50-mL round-bottom flask was placed a solution of 4-(4-hydroxyphenyl)benzoic acid (1 g, 4.7 mmol, 1 equiv) in tetrahydrofuran (20 mL), methylamine hydrochloride, (0.409 g 6 mmol, 1.3 equiv), EDCl (1.18 g, 6.2 mmol, 1.3 equiv), HOBt (0.74 g, 5.5 mmol, 1.2 equiv), and triethylamine (2 mL). The resulting solution was stirred overnight at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was purified by column chromatography on silica gel (eluting with 15:2 ethyl acetate/petroleum ether) to give 4-(4-hydroxyphenyl)-N-methylbenzamide as a white solid.

reactant | 4-(4-hydroxyphenyl)benzoic acid | 4.7 mmol, 1 g, 1 equiv | OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | methylamine hydrochloride | 6 mmol, 0.409 g, 1.3 equiv | Cl.CN
reactant | EDCl | 6.2 mmol, 1.18 g, 1.3 equiv | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 5.5 mmol, 0.74 g, 1.2 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 4-(4-hydroxyphenyl)-N-methylbenzamide | OC1=CC=C(C=C1)C1=CC=C(C(=O)NC)C=C1 | C14H13NO2
